US08378108B2
A suspension of N-(3-(1,3,4-oxadiazol-2-yl)phenyl)-4-bromopicolinamide (3.0 g, 8.7 mmol), 2-cyclopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (2.25 g, 9.2 mmol), dppf(Pd)Cl2 (320 mg, 5 mol %), potassium carbonate (2.4 g, 17 mmol) in degassed toluene (10 mL), degassed water (10 mL) and degassed isopropanol (10 mL) was heated at 85° C. for 4 hours. The solvent was removed under reduced pressure and the residue was suspended and sonicated in methanol (40 mL) before being filtered and washed with methanol (10 mL). The grey powder was then suspended and sonicated in water (40 mL) before being filtered and washed with water (10 mL), methanol (10 mL) and diethyl ether (10 mL) to give 6-cyclopropyl-[3,4′]bipyridinyl-2′-carboxylic acid (3-[1,3,4]oxadiazol-2-yl-phenyl)-amide (3.0 g, 90%). 384.1 (M+1).

reactant | N-(3-(1,3,4-oxadiazol-2-yl)phenyl)-4-bromopicolinamide | 8.7 mmol, 3.0 g | O1C(=NN=C1)C=1C=C(C=CC1)NC(C1=NC=CC(=C1)Br)=O | C14H9BrN4O2
reactant | 2-cyclopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 9.2 mmol, 2.25 g | C1(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H20BNO2
reactant | potassium carbonate | 17 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-cyclopropyl-[3,4′]bipyridinyl-2′-carboxylic acid (3-[1,3,4]oxadiazol-2-yl-phenyl)-amide | 3.0 g, 90% | O1C(=NN=C1)C=1C=C(C=CC1)NC(=O)C1=NC=CC(=C1)C=1C=NC(=CC1)C1CC1 | C22H17N5O2
